US04421758
(b) Trans-1-{6-[α-(4-chlorophenyl)-2,4-dichlorobenzyloxy]tetrahydropyran-2-ylmethyl}imidazole
114 mg of 55% sodium hydride were added to a solution of 323 mg of imidazole in 10 ml of dimethylformamide, and, after the mixture had been stirred at 80° C. for 30 minutes, it was cooled to room temperature. There were then added 2.20 g of trans-6-[α-(4-chlorophenyl)-2,4-dichlorobenzyloxy]-2-tosyloxymethyltetrahydropyran, dissolved in 15 ml of dimethylformamide, and then 594 mg of sodium iodide were added to the mixture. The resulting mixture stirred under a stream of nitrogen at 90°-95° C. for 4 hours, after which it was cooled, diluted with water and extracted with diethyl ether. The ethereal extract was washed with water and dried over sodium sulphate, after which it was concentrated by evaporation under reduced pressure and the residue was purified by column chromatography through silica gel eluted with a 8:1:0.1 by volume mixture of ethyl acetate, benzene and triethylamine, to give 1.346 g of the title compound as a colourless oil.

reactant | sodium hydride | 114 mg | [H-].[Na+]
reactant | imidazole | 323 mg | N1C=NC=C1 | C3H4N2
reactant | trans-6-[α-(4-chlorophenyl)-2,4-dichlorobenzyloxy]-2-tosyloxymethyltetrahydropyran | 2.20 g | ClC1=CC=C(C=C1)C(C1=C(C=C(C=C1)Cl)Cl)O[C@H]1CCC[C@@H](O1)COS(=O)(=O)C1=CC=C(C)C=C1 | C26H25Cl3O5S
reactant | sodium iodide | 594 mg | [I-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Trans-1-{6-[α-(4-chlorophenyl)-2,4-dichlorobenzyloxy]tetrahydropyran-2-ylmethyl}imidazole | 1.346 g | ClC1=CC=C(C=C1)C(C1=C(C=C(C=C1)Cl)Cl)O[C@H]1CCC[C@@H](O1)CN1C=NC=C1 | C22H21Cl3N2O2
